US04670438
2-(2-Methoxy-4-methanesulfonylamino-phenyl)-4H-imidazo[4,5-b]pyridin-5-one
2.7 g of 5-amino-6-(2-methoxy-4-methanesulfonylaminobenzoyl-amino)-2-pyridone were refluxed in 50 ml of glacial acetic acid for 1.5 hours. The mixture was then concentrated by evaporation in vacuo, and the residue was purified on silica gel (eluant: methylene chloride/ethanol 1:0 to 1:0.1).

reactant | 5-amino-6-(2-methoxy-4-methanesulfonylaminobenzoyl-amino)-2-pyridone | 2.7 g | NC=1C=CC(NC1NC(C1=C(C=C(C=C1)NS(=O)(=O)C)OC)=O)=O | C14H16N4O5S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Methoxy-4-methanesulfonylamino-phenyl)-4H-imidazo[4,5-b]pyridin-5-one | COC1=C(C=CC(=C1)NS(=O)(=O)C)C1=NC=2C(NC(CC2)=O)=N1 | C14H14N4O4S
